US04182758
A mixture of 1-bromo-3-chloro-2-methylpropane (95 g.) and triethyl phosphite (61.4 g.) was heated to reflux for 5.5 hours with stirring and then excess 1-bromo-3-chloro-2-methylpropane was distilled off under reduced pressure to give oily diethyl 3-chloro-2-methylpropylphosphonate (48.3 g.).

reactant | 1-bromo-3-chloro-2-methylpropane | 95 g | BrCC(CCl)C | C4H8BrCl
reactant | triethyl phosphite | 61.4 g | P(OCC)(OCC)OCC | C6H15O3P
product | diethyl 3-chloro-2-methylpropylphosphonate | 48.3 g | ClCC(CP(OCC)(OCC)=O)C | C8H18ClO3P
